US07037925B2
4-(1H-Indol-4-ylamino)-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.90 g, 0.34 mmol), 4-aminoindol (0.039 g, 0.23 mmol), sodium acetic (0.020 g, 0.23 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 4.5 h. After cooling the reaction mixture was diluted with water (20 ml) and made alkaline with 1 M NaOH. The precipitate was isolated by centrifugation, re-suspended in water and centrifuged again. The procedure was repeated twice and the solid material dried to give the title compound (27 mg, 43%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.34 mmol, 0.90 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 4-aminoindol | 0.23 mmol, 0.039 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 4-(1H-Indol-4-ylamino)-6,7-dimethoxy-3-quinolinecarboxamide | 27 mg, 43% | N1C=CC2=C(C=CC=C12)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C20H18N4O3
